US07348359B2
A mixture of 0.450 mmol of 3-[4-(2-n-butoxy-3,5-di-iso-propylphenyl)-benzo[b]thien-2-yl]-but-2-enoic acid ethyl ester, 3 mL of THF, 3 mL of methanol and 1 mL of LiOH (2N aqueous) was refluxed for 2 hours. After cooling at room temperature, the mixture was acidified to pH=2 and extracted with ethyl acetate. The organic layer was dried over MgSO4 and after evaporation of the solvents, the crude acid was recrystallized from acetonitrile. 3-[4-(2-n-butoxy-3,5-di-iso-propylphenyl)-benzo[b]thien-2-yl]-but-2-enoic acid was isolated as a white solid.

reactant | 3-[4-(2-n-butoxy-3,5-di-iso-propylphenyl)-benzo[b]thien-2-yl]-but-2-enoic acid ethyl ester | 0.450 mmol | C(C)OC(C=C(C)C1=CC2=C(S1)C=CC=C2C2=C(C(=CC(=C2)C(C)C)C(C)C)OCCCC)=O | C30H38O3S
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | LiOH | 2N, 1 mL | [Li+].[OH-]
solvent | methanol | 3 mL | CO | CH4O
product | 3-[4-(2-n-butoxy-3,5-di-iso-propylphenyl)-benzo[b]thien-2-yl]-but-2-enoic acid | C(CCC)OC1=C(C=C(C=C1C(C)C)C(C)C)C1=CC=CC=2SC(=CC21)C(=CC(=O)O)C | C28H34O3S
